US07229999B2
Step 1: 5-Bromo-6-(2-methoxy-ethoxy)-nicotinic acid
A mixture of 325 mg (1.3 mmol) 5-Bromo-6-chloro-nicotinic acid methyl ester, 233 mg (3.24 mmol) 2-methoxyethanol and 493 mg (3.24 mmol) DBU was heated under microwave radiation for 2 min to 180° C. 0.65 mL water and 0.49 mL 5N KOH aq. was added and the mixture was heated under microwave radiation for 2 min to 160° C. The mixture was acidified with 1N HCl aq. and extracted with ethyl acetate. After evaporation the residue was purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/HCOOH. The combined product fractions were evaporated to yield 237 mg (66%) of the title compound as white solid. MS (m/e): 274 (M−H).

reactant | 5-Bromo-6-chloro-nicotinic acid methyl ester | 1.3 mmol, 325 mg | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | 2-methoxyethanol | 3.24 mmol, 233 mg | COCCO | C3H8O2
reactant | DBU | 3.24 mmol, 493 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | KOH | 5N, 0.49 mL | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 0.65 mL | O | H2O
product | 5-Bromo-6-(2-methoxy-ethoxy)-nicotinic acid | 237 mg, 66% | BrC=1C(=NC=C(C(=O)O)C1)OCCOC | C9H10BrNO4
